US04772631
N-Benzyl-2-p-hydroxyphenoxyethylamine hydrochloride (3.5 g) was shaken with 1M sodium hydroxide solution (20 ml) and dichloromethane (20 ml). The organic layer was separated and washed with water (10 ml), dried (MgSO4) and the solvent evaporated to give N-benzyl-2-p-hydroxyphenoxyethylamine as an oil.

reactant | N-Benzyl-2-p-hydroxyphenoxyethylamine hydrochloride | 3.5 g | Cl.C(C1=CC=CC=C1)NCCOC1=CC=C(C=C1)O
reactant | sodium hydroxide | 1M, 20 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-benzyl-2-p-hydroxyphenoxyethylamine | C(C1=CC=CC=C1)NCCOC1=CC=C(C=C1)O | C15H17NO2
